US07345075B2
a) 4-(5-Methoxy-2-nitrophenyl)aminobenzonitrile
2 g of 3-fluoro-4-nitroanisole and 15 ml of 4-aminobenzonitrile were stirred for 22 hours at 140° C. The batch was then diluted with ethyl acetate, washed three times with 2N aqueous hydrochloric acid, three times with water and once with saturated sodium chloride solution, dried on sodium sulfate, concentrated by evaporation in a vacuum, and the residue was chromatographed on silica gel.

reactant | 3-fluoro-4-nitroanisole | 2 g | FC=1C=C(C=CC1[N+](=O)[O-])OC | C7H6FNO3
reactant | 4-aminobenzonitrile | 15 ml | NC1=CC=C(C#N)C=C1 | C7H6N2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(5-Methoxy-2-nitrophenyl)aminobenzonitrile | COC=1C=CC(=C(C1)NC1=CC=C(C#N)C=C1)[N+](=O)[O-] | C14H11N3O3
